US07812040B2
2-Methyl-4-(pyrrolidin-1-ylmethyl)phenol.
NaB(OAc)3H (11.8 g, 0.056 mol) was added in portions for 15 min to a mixture of pyrrolidine (3.3 mL, 0.041 mol) and 2-methyl-4-hydroxybenzaldehyde (5 g, 0.037 mol) in CH2Cl2 (100 mL) under vigorous stirring and cooling with an ice bath in an atmosphere of argon Ar. The mixture was stirred for 20 h and cooled with an ice bath. Concentrated HCl (10 mL) was added. The organic layer was separated and discarded. The aqueous one was alkalized with K2CO3 to pH 9 (30 mL) and extracted with EtOAc (4×100 mL). The combined extracts were dried with Na2SO4, and evaporated to give the title compound (6.06 g, 86%) was obtained as white crystals. H-NMR (400 MHz)-data (DMSO-d6, J, Hz): 9.18 (br s, 1H, OH); 6.83 (s, 2H, ArH); 3.79 (s, 3H, CH3); 3.44 (s, 2H, CH2Ar); 2.36-2.44 (m, 4H, CH2CH2CH2CH2,); 1.65-1.72 (m, 4H, CH2CH2CH2CH2).

reactant | NaB(OAc)3H | 0.056 mol, 11.8 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | pyrrolidine | 0.041 mol, 3.3 mL | N1CCCC1 | C4H9N
reactant | 2-methyl-4-hydroxybenzaldehyde | 0.037 mol, 5 g | CC1=C(C=O)C=CC(=C1)O | C8H8O2
reactant | HCl | 10 mL | Cl | ClH
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-Methyl-4-(pyrrolidin-1-ylmethyl)phenol | 6.06 g, 86% | CC1=C(C=CC(=C1)CN1CCCC1)O | C12H17NO
